Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4],5.04985029277
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:14][H:15],4.18124445711
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.31005490779
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.8267536834
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.147933650980001
[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],3.02074017272
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.57367444688
[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],4.65602782891
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][H:4],7.244591894630001
[O:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[H:9].[O:1]=[O:2],-0.850394898171
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.52343931407
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],4.73687683833
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:7],4.85354613057
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:13].[O:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-8.38192573092
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])[C:5]#[C:6],4.96854422244
[H:1][C:2]([H:3])([C:4](=[C:5]([H:6])[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15])[H:11]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[C:7]1([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.144921958239
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.2501391611
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8][C:10]([H:11])([H:12])[H:13],4.85565445264
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6],4.3336924577
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4][H:5],5.16979984262
[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9])=[C:10][H:11]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]1[H:11],-5.66539910454
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:8]([H:9])[H:10].[H:1][C:7]([H:3])=[C:4]=[C:5]([H:6])[C:11]([H:12])([H:13])[H:14],0.7081024387
[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.2929312285500005
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-3.77634571788
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.90496624941
[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.18503249107
[H:1][O:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.39433436775
